US04717724
6-Hydroxy-2-(2-thienylmethyl)-1,2,3,4-tetrahydroisoquinoline
0.6 g of sodium cyanoborohydride is added to a solution of 1.5 g of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline, 1.2 g of thiophene-2-aldehyde and 1.8 g of toluenesulfonic acid monohydrate in 30 ml of ethanol. The mixture is stirred at room temperature for 8 hours, the solvent is removed in vacuo, and the residue is taken up with water/methylene chloride. The organic phase is again skaken with water, dried and evaporated in a rotary evaporator. The crude oily product is purified by chromatography on silica gel using a mixture of ethyl acetate/methylene chloride in the ratio 1:2. 1.7 g of a colorless oil, which crystallizes on standing (69% of theory), is obtained. Melting point: 110°-112° C.

reactant | sodium cyanoborohydride | 0.6 g | C(#N)[BH3-].[Na+]
reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline | 1.5 g | OC=1C=C2CCNCC2=CC1 | C9H11NO
reactant | thiophene-2-aldehyde | 1.2 g | S1C(=CC=C1)C=O | C5H4OS
reactant | toluenesulfonic acid monohydrate | 1.8 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-Hydroxy-2-(2-thienylmethyl)-1,2,3,4-tetrahydroisoquinoline | OC=1C=C2CCN(CC2=CC1)CC=1SC=CC1 | C14H15NOS
